US06452014B1
5-Cyano-2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]benzimidazole was prepared from 5-(4-formylbenzylidene)-2,4-thiazolidinedione and 3,4-diaminobenzonitrile by following General Procedure 2.

reactant | 5-(4-formylbenzylidene)-2,4-thiazolidinedione | C(=O)C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C11H7NO3S
reactant | 3,4-diaminobenzonitrile | NC=1C=C(C#N)C=CC1N | C7H7N3
product | 5-Cyano-2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]benzimidazole | C(#N)C1=CC2=C(N=C(N2)C2=CC=C(C=C2)C=C2C(NC(S2)=O)=O)C=C1 | C18H10N4O2S
